US07906537B2
Pentanoic acid {4[(5-chloro-thiophen-2-ylmethyl)-(methyl)amino]-2-methylphenyl}-amide
To a solution of N(4)-(5-Chloro-thiophen-2-ylmethyl)-2,N(4)-dimethyl-benzene-1,4-diamine (54 mg, 0.20 mmol) and triethylamine (84 μL, 0.60 mmol) in dry tetrahydrofuran (1 mL) was added pentanoyl chloride (36 μL, 0.30 mmol), and the mixture was stirred for 1 hour at room temperature after which it was partitioned between saturated aqueous sodium bicarbonate (5 mL) and ethyl acetate (5 mL). The organic layer was dried over sodium sulfate, volatiles were evaporated, and the residue was purified on a FlashMaster system (silica, eluted with heptane/ethyl acetate mixtures) to yield the title compound as a white solid (61 mg, 86%).

reactant | N(4)-(5-Chloro-thiophen-2-ylmethyl)-2,N(4)-dimethyl-benzene-1,4-diamine | 0.20 mmol, 54 mg | ClC1=CC=C(S1)CN(C1=CC(=C(C=C1)N)C)C | C13H15ClN2S
reactant | triethylamine | 0.60 mmol, 84 μL | C(C)N(CC)CC | C6H15N
reactant | pentanoyl chloride | 0.30 mmol, 36 μL | C(CCCC)(=O)Cl | C5H9ClO
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | Pentanoic acid {4[(5-chloro-thiophen-2-ylmethyl)-(methyl)amino]-2-methylphenyl}-amide | 61 mg, 86% | ClC1=CC=C(S1)CN(C1=CC(=C(C=C1)NC(CCCC)=O)C)C | C18H23ClN2OS
